*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.50e-03[uF]/630[V]
* Murata P/N :GCM21B5C2J152JX0A
* Property : C = 1.50e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2J152JX0A Port1 Port2
C01 Port1 N01 1.50e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 4.35e-10
R03 N02 N03 4.39e-03
C04 N03 N04 5.19e-08
R04 N03 N04 5.09e+01
L05 N04 N05 8.34e-11
R05 N04 N05 7.53e-01
L06 N05 N06 9.43e-11
R06 N05 N06 2.34e-02
C07 N06 N07 6.39e-09
L07 N06 N07 2.97e-11
R07 N06 N07 9.66e-01
C08 N07 N08 2.39e-09
L08 N07 N08 3.31e-11
R08 N07 N08 1.12e+00
C09 N08 N09 9.83e-09
L09 N08 N09 3.87e-12
R09 N08 N09 1.53e-01
C10 N09 Port2 2.90e-09
L10 N09 Port2 8.10e-12
R10 N09 Port2 2.63e-01
.ENDS GCM21B5C2J152JX0A
